US07517873B2
To a solution of 2.0 g (0.012 mole) of D-beta-homoproline hydrochloride in 20 mL of methanol was added slowly 1.8 mL (0.024 mole) of thionyl chloride at 0 degrees. The mixture was stirred overnight, then concentrated under reduced pressure. The solid was slurried in ether, and collected by filtration to give 2.2 g of (2R)-pyrrolidin-2-yl-acetic acid methyl ester hydrochloride as a white solid. A solution of 2.2 g (0.012 mole) of (2R)-pyrrolidin-2-yl-acetic acid methyl ester hydrochloride in 3 mL of chloroform was added over 5 minutes to a cooled (0 degrees) mixture of 2.34 g (0.012 mole) of 2,4-dichloro-5-nitro-pyrimidine, 5.1 g (0.060 mole) of sodium bicarbonate and 25 mL of ethyl acetate. The cooling bath was removed and the mixture stirred for 17 hours at room temperature. Activated charcoal was added and after stirring briefly, the mixture was filtered through a pad of Celite, washing the filter pad with ethyl acetate. The filtrate was concentrated under reduced pressure. Purification of the residue by silica gel chromatography, eluting with hexanes-ethyl acetate (100:0-70:30) gave 3.3 g of [(R)-1-(2-chloro-5-nitro-pyrimidin-4-yl)-pyrrolidin-2-yl]-acetic acid methyl ester (IV-102) as a yellow thick oil.

reactant | D-beta-homoproline hydrochloride | 0.012 mole, 2.0 g | Cl.N1[C@@H](CC(=O)O)CCC1
reactant | thionyl chloride | 0.024 mole, 1.8 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 20 mL | CO | CH4O
product | (2R)-pyrrolidin-2-yl-acetic acid methyl ester hydrochloride | 2.2 g | Cl.COC(C[C@@H]1NCCC1)=O | InChI=1S/C7H13NO2.ClH/c1-10-7(9)5-6-3-2-4-8-6;/h6,8H,2-5H2,1H3;1H/t6-;/m1./s1
